US05756784
Bis(2-hydroxy-8-methyl-4,8-diazanonyl)ether (10 g, 0.030 mol) synthesized using a known method, triethylamine (6.1 g, 0.060 mol), and methylene chloride (200 ml) were placed in a 500 ml four-necked round flask, and the mixture was cooled on ice. Dodecanoylchloride (13 g, 0.060 mol) was added dropwise over 1 hour to the flask while the contents of the flask were stirred under nitrogen. The mixture was stirred for 24 more hours at room temperature. The solid which precipitated was removed by filtration, after which water was added for washing. Methylene chloride was removed from the organic phase under reduced pressure. The residue was purified by column chromatography (packed with Kieselgel 60 (product of Merck), eluent:chloroform/methanol=7:1 (v/v)) to obtain 6.9 g of bis(4-(1-oxododecyl)-2-hydroxy-8-methyl-4,8-diazanonyl)ether. Yield: 33 wt %.

reactant | Bis(2-hydroxy-8-methyl-4,8-diazanonyl)ether | 0.030 mol, 10 g | OC(COCC(CNCCCN(C)C)O)CNCCCN(C)C | C16H38N4O3
reactant | triethylamine | 0.060 mol, 6.1 g | C(C)N(CC)CC | C6H15N
reactant | Dodecanoylchloride | 0.060 mol, 13 g | C(CCCCCCCCCCC)(=O)Cl | C12H23ClO
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | bis(4-(1-oxododecyl)-2-hydroxy-8-methyl-4,8-diazanonyl)ether | 6.9 g | O=C(CCCCCCCCCCC)N(CC(COCC(CN(CCCN(C)C)C(CCCCCCCCCCC)=O)O)O)CCCN(C)C | C40H82N4O5
